US05449664
A solution of the compound of 4'-azidothymidine 5'-monophosphate disodium salt (55 mg, 0.14 mM) in H2O (5 mL) is applied onto a short column of Dowex 50 (H+) resin (8 mL) and eluted with H2O. After concentrating the eluent to 5 mL, tributylamine (32 μL) and pyridine (5 mL) was added and the mixture evaporated in vacuo. The residue was co-evaporated with pyridine then with dimethylformamide. To a solution of the residue in dimethylformamide (1 mL) was added a solution of carbonyldiimidazole (0.11 g, 0.66 mM) in dimethylformamide (1.5 mL). After 20 hours at room temperature, methanol (0.04 mL, 1.0 mM) was added. Thirty minutes later a solution of tributylammonium pyrophosphate (0.675 mM) in dimethylformamide (7 mL) was added and mixture was vigorously stirred for 20 hours at room temperature. After filtration, the solution was diluted with an equal volume of methanol and evaporated to a sirup. The sirup was dissolved in water (10 mL) and applied onto a 3×23 cm column of DEAE Sephadex (carbonate form) which was eluted with a linear gradient consisting of 2 L of water and 2 L of 0.5M triethylammonium bicarbonate (pH 7). The 4'-azidothymidine 5'-diphosphate was eluted pure followed by the 4'-azidothymidine 5-'triphosphate. After evaporation of solvent and repeated co-evaporation with water, each product was dissolved in a small amount of methanol. The addition of a 0.45M solution of sodium perchlorate in acetone then precipitated the sodium salts. Filtering off the precipitates and drying in vacuo gave 4'-azidothymidine 5'-diphosphate trisodium salt (12 mg) and 4'-azidothymidine 5'-triphosphate tetrasodium salt (54 mg, mp 204° C., decomposition).

reactant | 4'-azidothymidine 5'-monophosphate disodium salt | 0.14 mM, 55 mg | [Na+].[Na+].P(=O)([O-])([O-])OC[C@@]1([C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)N=[N+]=[N-]
solvent | H2O | 5 mL | O | H2O
product | 4'-azidothymidine 5'-diphosphate trisodium salt | 12 mg | [Na+].[Na+].[Na+].P([O-])(=O)(OP(=O)([O-])[O-])OC[C@@]1([C@H](C[C@@H](O1)N1C(=O)NC(=O)C(C)=C1)O)N=[N+]=[N-] | InChI=1S/C10H15N5O11P2.3Na/c1-5-3-15(9(18)12-8(5)17)7-2-6(16)10(25-7,13-14-11)4-24-28(22,23)26-27(19,20)21;;;/h3,6-7,16H,2,4H2,1H3,(H,22,23)(H,12,17,18)(H2,19,20,21);;;/q;3*+1/p-3/t6-,7+,10+;;;/m0.../s1
